US08278473B2
To a suspension of 1.0 g (6.20 mmol) of N-phenylmethacrylamide in 4 ml of toluene was added 1.30 g (6.24 mmol) of phosphorus pentachloride and stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in 5 ml of DMF and then cooled to 0° C. To a solution of 1.17 g (12.4 mmol) of phenol in 5 ml of DMF was added 546 mg (13.6 mmol) of sodium hydride (60% in oil) under ice cooling and stirred for 5 minutes. The mixture was added portionwise to the above-described DMF solution of the residue under ice cooling and stirred at room temperature for 1 hour. The reaction mixture was poured into water wad extracted with tert-butyl methyl ether (twice). The combined organic layer was washed sequentially with water and saturated NaCl, dried over anhydrous MgSO4, and then concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 1.28 g of phenyl 2-methyl-N-phenyl-2-propenimidate.

reactant | N-phenylmethacrylamide | 6.20 mmol, 1.0 g | C1(=CC=CC=C1)NC(C(=C)C)=O | C10H11NO
reactant | phosphorus pentachloride | 6.24 mmol, 1.30 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phenol | 12.4 mmol, 1.17 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 13.6 mmol, 546 mg | [H-].[Na+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | phenyl 2-methyl-N-phenyl-2-propenimidate | 1.28 g | CC(C(OC1=CC=CC=C1)=NC1=CC=CC=C1)=C | C16H15NO
